US05178637
97.8 g of 5,6-dimethoxyindoline are dissolved in 400 ml of 47% hydrobromic acid and the solution is refluxed for four hours. The hydrobromic acid is evaporated under reduced pressure and the residue is taken up in 0.5 l of ethanol and treated with active charcoal under ethanol reflux for 30 minutes and the mixture is then filtered through celite. A volume of ethyl ether is then added progressively to the cooled filtrate. 94.8 g of 5,6-dihydroxyindoline hydrobromide are obtained.

reactant | 5,6-dimethoxyindoline | 97.8 g | COC=1C=C2CCNC2=CC1OC | C10H13NO2
reactant | hydrobromic acid | 400 ml | Br | BrH
product | 5,6-dihydroxyindoline hydrobromide | 94.8 g, Yield=75% | Br.OC=1C=C2CCNC2=CC1O | InChI=1S/C8H9NO2.BrH/c10-7-3-5-1-2-9-6(5)4-8(7)11;/h3-4,9-11H,1-2H2;1H
